US09212348B2
Synthesis of 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1 H-pyrazole-3-carboxylic acid
Ethyl 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate (138 mg) was dissolved in 2 mL of tetrahydrofuran and 0.7 mL of methanol, mixed with 0.27 mL (1.4 mmol) of 5 M aqueous sodium hydroxide and stirred at room temperature for 20 hours. After completion of the reaction, the reaction mixture was diluted with methylene chloride and washed with saturated aqueous ammonium chloride. The organic layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give the desired product (crude yield 142 mg).

reactant | Ethyl 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate | 138 mg | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1OCOC)C(CC1=CC=C(C=C1)C)(C)C)C(=O)OCC | C31H42N2O4
reactant | sodium hydroxide | 1.4 mmol, 5 M, 0.27 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.7 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1 H-pyrazole-3-carboxylic acid | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1OCOC)C(CC1=CC=C(C=C1)C)(C)C)C(=O)O | C29H38N2O4
